US04608379
5-Ethyl-2-methyl-1-propylpyridinium bromide (8.1 g, 0.033 mole) and 4-dimethylaminobenzaldehyde (6.0 g, 0.04 mole) were refluxed in methanol (50 ml) in the presence of piperidine (1.5 ml) under nitrogen for four hours. Ether was added to the cool solution and, on scratching, a red solid crystallised which was collected and washed with a little isopropanol to give 2-[4-(dimethylamino)-styryl]-5-ethyl-1-propylpyridinium bromide (7.7 g). Melting point 236°-237° (decomposition).

reactant | 5-Ethyl-2-methyl-1-propylpyridinium bromide | 0.033 mole, 8.1 g | [Br-].C(C)C=1C=CC(=[N+](C1)CCC)C
reactant | 4-dimethylaminobenzaldehyde | 0.04 mole, 6.0 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 1.5 ml | N1CCCCC1 | C5H11N
reactant | Ether | CCOCC | C4H10O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-(dimethylamino)-styryl]-5-ethyl-1-propylpyridinium bromide | 7.7 g | [Br-].CN(C1=CC=C(C=CC2=[N+](C=C(C=C2)CC)CCC)C=C1)C | InChI=1S/C20H27N2.BrH/c1-5-15-22-16-17(6-2)7-13-20(22)14-10-18-8-11-19(12-9-18)21(3)4;/h7-14,16H,5-6,15H2,1-4H3;1H/q+1;/p-1
